US04933355
Ethyl 2-octylaminothiazole-4-carboxylate
The reaction described in Preparation 26 was repeated, but using 2.7 g of octylamine, 4.0 g of ethyl 2-chlorothiazole-4-carboxylate, 4.2 g of triethylamine and 15 ml of dimethylformamide, giving the title compound as a pale yellow oil.

reactant | octylamine | 2.7 g | C(CCCCCCC)N | C8H19N
reactant | ethyl 2-chlorothiazole-4-carboxylate | 4.0 g | ClC=1SC=C(N1)C(=O)OCC | C6H6ClNO2S
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-octylaminothiazole-4-carboxylate | C(CCCCCCC)NC=1SC=C(N1)C(=O)OCC | C14H24N2O2S
